### PR TITLE
[Merged by Bors] - feat(LinearIndependent): more API for linearIndepOn

### PR DESCRIPTION
**Pull request by apnelson1**
We add a few more API lemmas for `linearIndepOn`, in many cases generalizing `id` versions of existing lemmas to arbitrary functions. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by madvorak — APPROVED** [review]

File: Mathlib/LinearAlgebra/Dimension/Constructions.lean [hunk 1]
```diff
@@ -56,7 +56,15 @@ theorem LinearIndependent.sumElim_of_quotient
...
-theorem LinearIndepOn.union_of_quotient {M' : Submodule R M}
+theorem LinearIndepOn.union_of_quotient {s t : Set ι} {f : ι → M} (hs : LinearIndepOn R f s)
+    (ht : LinearIndepOn R (mkQ (span R (f '' s)) ∘ f) t) : LinearIndepOn R f (s ∪ t) := by
+  apply hs.union ht.of_comp
+  convert (Submodule.range_ker_disjoint ht).symm
+  · simp
+  aesop
+
+-- TODO : change the statement to use `MkQ`, and the proof to use `LinearIndepOn.union_of_quotient`.
+theorem LinearIndepOn.union_id_of_quotient {M' : Submodule R M}
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Dimension/Constructions.lean:67]: Why have this as a TODO and not simply do it now? Does it break much? Also, are you sure `mkQ` is a good idea? Is it in simp normal form (I guess probably it is since it's unapplied).

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 2]
```diff
@@ -141,6 +141,11 @@ theorem LinearIndepOn.ne_zero [Nontrivial R] {i : ι} (hv : LinearIndepOn R v s)
     v i ≠ 0 :=
   LinearIndependent.ne_zero ⟨i, hi⟩ hv
 
+theorem LinearIndepOn.zero_not_mem_image [Nontrivial R] (hs : LinearIndepOn R v s) : 0 ∉ v '' s :=
+  fun ⟨_, hi, h0⟩ ↦ hs.ne_zero hi h0
+
+-- done
+
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean:148]:
```suggestion
```

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 3]
```diff
@@ -228,6 +228,17 @@ theorem span_int_eq_addSubgroup_closure {M : Type*} [AddCommGroup M] (s : Set M)
 theorem span_int_eq {M : Type*} [AddCommGroup M] (s : AddSubgroup M) :
     (span ℤ (s : Set M)).toAddSubgroup = s := by rw [span_int_eq_addSubgroup_closure, s.closure_eq]
 
+theorem disjoint_of_disjoint_span (hst : Disjoint (span R s) (span R t)) :
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Span/Defs.lean:231]: I'd be tempted to called this `_root_.Disjoint.of_span` and likewise for the `₀` version. Although I suppose it could conflict with `Idea.span`. :thinking: Do we really not already have this?

**Review by j-loreaux — COMMENTED** [review]
The `id` duplication makes me sad, but I don't see a way around it.

File: Mathlib/LinearAlgebra/Dimension/Constructions.lean (hunk 1 above)
Comment (apnelson1) [reply Mathlib/LinearAlgebra/Dimension/Constructions.lean:67]: [this topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Submodule.2EmkQ.20vs.20Submodule.2EQuotient.2Emk) was what I had in mind

**Review by Vierkantor — APPROVED** [review]
I think this looks good, and can think of no obvious missing items. Thanks!

bors r+
